US06984646B2
4-[3-(Trifluoromethyl)benzoyl]-6,7,8,9-tetrahydropyrido[1,2-a]benzimidazol-1(5H)-one
The compound is prepared as described in example 25 with 500 mg (1.62 mmol) of 2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)-1-[3-(trifluoromethyl)phenyl]ethanone (example LII), 175 mg (3.25 mmol) of sodium methylate and 136 mg (1.62 mmol) methyl propiolate.

reactant | 2-(4,5,6,7-tetrahydro-1H-benzimidazol-2-yl)-1-[3-(trifluoromethyl)phenyl]ethanone | 1.62 mmol, 500 mg | N1C(=NC2=C1CCCC2)CC(=O)C2=CC(=CC=C2)C(F)(F)F | C16H15F3N2O
reactant | sodium methylate | 3.25 mmol, 175 mg | C[O-].[Na+]
reactant | methyl propiolate | 1.62 mmol, 136 mg | C(C#C)(=O)OC | C4H4O2
product | 4-[3-(Trifluoromethyl)benzoyl]-6,7,8,9-tetrahydropyrido[1,2-a]benzimidazol-1(5H)-one | FC(C=1C=C(C(=O)C=2C=CC(N3C2NC2=C3CCCC2)=O)C=CC1)(F)F | C19H15F3N2O2
